US09278950B2
Step 4. 2-[3-(3-Nitropyridin-4-yl)cyclohex-2-en-1-yl]-1H-isoindole-1,3(2H)-dione
To a solution of 3-(3-nitropyridin-4-yl)cyclohex-2-en-1-ol (1.0 g, 4.5 mmol), phthalimide (1.0 g, 6.8 mmol) and triphenylphosphine (1.8 g, 6.8 mmol) in THF (20 mL), di-tert-butyl azodicarboxylate (1.6 g, 6.8 mmol) was added slowly at 0° C. The resulting mixture was stirred at 0° C. for 3 h. After concentrated concentrating under reduced pressure, the crude product was purified by silica gel column chromatography (eluting with 0-70% EtOAc in hexanes) to give a solid, which was further treated with DCM and hexanes to yield sub-title compound (1.55 g, 98%). LCMS calc. for C19H16N3O4 (M+H)+: m/z=350.1. Found: 350.3.

reactant | 3-(3-nitropyridin-4-yl)cyclohex-2-en-1-ol | 4.5 mmol, 1.0 g | [N+](=O)([O-])C=1C=NC=CC1C1=CC(CCC1)O | C11H12N2O3
reactant | phthalimide | 6.8 mmol, 1.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 6.8 mmol, 1.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 6.8 mmol, 1.6 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-[3-(3-Nitropyridin-4-yl)cyclohex-2-en-1-yl]-1H-isoindole-1,3(2H)-dione | 1.55 g, 98% | [N+](=O)([O-])C=1C=NC=CC1C1=CC(CCC1)N1C(C2=CC=CC=C2C1=O)=O | C19H15N3O4
